US06004977
2,3-Dihydro-4-fluoro-2-(4-pyridinylamino)-1H-isoindol-5-yl 1,2,3,4-tetrahydroisoquinolin-2-ylcarbamate hydrochloride
To a mixture of 2,3-dihydro-4-fluoro-2-(4-pyridinylamino)-1H-isoindol-5-ol hydrobromide (655 mg), triethylamine (671 mg), and chloroform (10 ml), 1,2,3,4-tetrahydroisoquinolin-2-ylcarbonyl chloride (471 mg) in chloroform (5 ml) was added dropwise, with stirring at ambient temperature, under nitrogen. The reaction mixture was stirred under reflux for 5 hrs, at ambient temperature overnight and poured into dilute sodium bicarbonate solution (100 ml). The layers were separated. The aqueous phase was extracted with chloroform, and the combined organic layers were dried over anhydrous sodium sulfate, filtered, and the filtrate was evaporated in vacuo. The residue was flash chromatographed (silica), eluting with 7% methanol-dichloromethane followed by 185:14:1 dichloromethane-methanol-ammonium hydroxide to give 800 mg of product. The appropriate fractions were collected and evaporated. The residue was dissolved in absolute ethanol and excess ethereal hydrogen chloride was added. Ether was added and the mixture was cooled. The precipitate was collected to give 750 mg (85%) of product, mp >260° C.

reactant | 2,3-dihydro-4-fluoro-2-(4-pyridinylamino)-1H-isoindol-5-ol hydrobromide | 655 mg | Br.FC1=C2CN(CC2=CC=C1O)NC1=CC=NC=C1
reactant | triethylamine | 671 mg | C(C)N(CC)CC | C6H15N
reactant | 1,2,3,4-tetrahydroisoquinolin-2-ylcarbonyl chloride | 471 mg | C1N(CCC2=CC=CC=C12)C(=O)Cl | C10H10ClNO
reactant | sodium bicarbonate | 100 ml | C([O-])(O)=O.[Na+]
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 2,3-Dihydro-4-fluoro-2-(4-pyridinylamino)-1H-isoindol-5-yl 1,2,3,4-tetrahydroisoquinolin-2-ylcarbamate hydrochloride | 800 mg | Cl.C1N(CCC2=CC=CC=C12)NC(OC=1C(=C2CN(CC2=CC1)NC1=CC=NC=C1)F)=O | InChI=1S/C23H22FN5O2.ClH/c24-22-20-15-29(26-19-7-10-25-11-8-19)14-18(20)5-6-21(22)31-23(30)27-28-12-9-16-3-1-2-4-17(16)13-28;/h1-8,10-11H,9,12-15H2,(H,25,26)(H,27,30);1H
